US03931239
A solution of 4,5-dimethyl-6-oxo-7,8-dihydro-7-bromo-7-isopropyl-6H-indeno[5,4-b]furan-2-carboxylic acid (0.01 mole) in dimethylsulfoxide (50 ml.) is treated with 1,5-diazabicyclo[4.3.0] -5-nonene (0.20 mole) and stirred in an inert (nitrogen) atmosphere at 25°C. for 1 hour; poured into 1.0 N hydrochloric acid to afford 4,5-dimethyl-6-oxo-7-isopropyl-6H-indeno-[5,4-b]furan-2-carboxylic acid.

reactant | 4,5-dimethyl-6-oxo-7,8-dihydro-7-bromo-7-isopropyl-6H-indeno[5,4-b]furan-2-carboxylic acid | 0.01 mole | CC1=C(C=2C(C(CC2C2=C1OC(=C2)C(=O)O)(C(C)C)Br)=O)C | C17H17BrO4
reactant | 1,5-diazabicyclo[4.3.0] -5-nonene | 0.20 mole | C1CC2=NCCCN2C1 | C7H12N2
reactant | hydrochloric acid | 1.0 N | Cl | ClH
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 4,5-dimethyl-6-oxo-7-isopropyl-6H-indeno-[5,4-b]furan-2-carboxylic acid | CC1=C(C=2C(C(=CC2C2=C1OC(=C2)C(=O)O)C(C)C)=O)C | C17H16O4
